Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
motor vehicle crash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This patient is a ___ year old male who complains of MVC, 
Transfer.3 hours pta MVC.was t boned. WS starred. from OSH, 
received tetanus. no evid of aintibiotics given. has rle medial 
knee laceration. no history of dislocation of knee. Injuries 
include rt MT fracture, head ct negative. cspine showed likely 
negative bust question of C5 fx. question of popliteal injury 
but per report of CT 2 mm active extravasation at knee c.w. 
pseudoanuerysm. rt foot fracture, rt knee laceration. received 
morphine enroute. cxr negative. torso CT performed. trauma 
transfer; mvc, popliteal artery injury
 
Past Medical History:
gastroesophageal reflux disease
face surgery
 
Social History:
___
Family History:
diabetes mellitus
 
Physical Exam:
Discharge Exam: 
Gen: NAD
CV: RRR, no heart murmurs, no rubs/gallops
Resp: CTA blt
Abdomen: bowel sounds present, soft, non-tender, no rebound, no 
guarding
Extremities: left knee in knee immobilizer, right foot in air 
cast boot
 
Pertinent Results:
Radiology: 
___ X-RAY KNEE (AP, LAT & OBLIQUE):
Likely comminuted nondisplaced fracture of the inferior portion 
of the left patella, with prepatellar soft tissue swelling. 
No other fracture and no dislocation detected about the left 
knee. Moderately large joint effusion. 

L Glenohumeral xray ___:
Apparent step-off of the undersurface of the acromion and distal
clavicle on the scapular Y-view, not seen on the frontal views
though this does raise concern for acromioclavicular joint
disruption.  Consider weight-bearing views. 

CT Chest/Abdomen ___:
1. Mild widening of the left acromioclavicular joint with
associated fluid and overlying edema, raising possibility of
acromioclavicular joint injury.  Correlate findings with
dedicated radiograph performed on the same day. 
2. No evidence of fracture or intrathoracic or intra-abdominal
traumatic injury. 

Foot Xray ___:
There is a nondisplaced fracture of the distal second metatarsal
diaphysis. No dislocation. There are no significant degenerative
changes. The mortise is congruent. The tibial talar joint space
is preserved and no talar dome osteochondral lesion is
identified. No suspicious lytic or sclerotic lesion is 
identified. No soft tissue calcification or radiopaque foreign
body is identified. 

OSH CTA: popliteal artery and calf arteries are intact an 
patent.
No occlusion or significant stenosis.  No traumatic vascular
injury.  Laceration in the anteromedial aspect of the knee with
associated 5cm hematoma.  Within the hematoma there is a 2cm
focus of extravasated intravascular contrast consistent with a
small traumatic pseudoaneurysm or active hemorrhage.  Small knee
joint effusion.

Laboratory Studies:

Labs: 
___ 04:30AM BLOOD WBC-9.6 RBC-4.93 Hgb-14.7 Hct-41.9 MCV-85 
MCH-29.8 MCHC-35.1 RDW-12.3 RDWSD-37.9 Plt ___
___ 04:30AM BLOOD Plt ___
___ 04:30AM BLOOD ___ PTT-29.7 ___
___ 04:30AM BLOOD ___ 04:30AM BLOOD UreaN-10 Creat-0.9
___ 04:30AM BLOOD ALT-32 AST-28 AlkPhos-83 TotBili-1.2
___ 04:30AM BLOOD Lipase-420*
___ 04:30AM BLOOD Albumin-4.6
___ 04:41AM BLOOD Glucose-108* Lactate-1.4 Na-138 K-4.3 
Cl-102 calHCO3-25
___ 04:41AM BLOOD freeCa-1.15
 
Brief Hospital Course:
Mr. ___ is a ___ yo male who was admitted to the hospital with 
traumatic injuries from an ___. His injury complex included:

[]left acromioclavicular joint separation
[]left scapula subluxation
[]fracture of the inferior pole of the left 
patella
[]right ___ metatarsal fractures
[]right cuboid & cuneiform fracture

Vascular surgery was consulted for imaging findings concerning 
for pseudoaneurysm versus active hemorrhage. Mr. ___ was 
assessed by Vascular surgery and no significant arterial 
injuries were found.
 
Mr. ___ was seen by our Orthopedic Surgery team. The plan for 
all injuries is non-operative management. Mr. ___ should be 
weight bearing as tolerated left shoulder, weight bearing as 
tolerated of the left lower extremity in knee immobilizer 
without any range of motioin and NON-weight bearing of the right 
lower extremity.
 
Mr. ___ was seen by our Physical and Occupational Therapy 
service and discharge home with physical therapy and a walker 
was recommended. 

Follow-up with Dr. ___ in Orthopedic ___ clinic (please 
find appointment details below). 

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*10 Capsule Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Please apply once daily to L shoulder. once a 
day Disp #*7 Patch Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Take lowest effective dose.  
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*14 
Tablet Refills:*0 
6.  Famotidine 40 mg PO QHS  
7.Outpatient Physical Therapy
rolling walker

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
comminuted nondisplaced fracture of the inferior portion of the 
left 
patella
left scapula sublux  
Right ___ metatarsal fractures
Right cuboid & cuneiform fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery on ___ after 
sustaining injuries to your left shoulder, right foot fractures 
and a left knee fracture. You were seen and evaluated by the 
orthopedic surgery team who recommended a short air cast for the 
right foot and non-weight bearing and a left leg knee 
immobilizer with weight bearing as tolerated. You were seen and 
evaluated by the physical therapists who recommended discharge 
home with home physical therapy and a walker. 

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___